US08138175B2
A) [3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-carbamic acid benzyl ester
To a solution of 3-[(benzyloxycarbonyl)amino]-1-propanal (300 mg, 1.45 mmol) in EtOH (2 mL) and CH2Cl2 (2 mL) were added (S)-6-aza-spiro[2.5]octan-4-ol hydrochloride (284 mg, 1.74 mmol), triethylamine (176 mg, 1.74 mmol), borane pyridine complex solution (8 M in pyridine 0.34 mL, 3.2 mmol), and AcOH (400 mg, 6.66 mmol) at RT, then after 1 h the reaction mixture was partitioned between CH2Cl2 and sat. aq. NaHCO3 solution. The organic layer was washed with brine, dried (MgSO4), and evaporated. Chromatography (SiO2; EtOAc-MeOH gradient) produced the title compound (404 mg, 88%). Colorless gum, MS: 319.1 (M+H)+.

reactant | 3-[(benzyloxycarbonyl)amino]-1-propanal | 1.45 mmol, 300 mg | C(C1=CC=CC=C1)OC(=O)NCCC=O | C11H13NO3
reactant | (S)-6-aza-spiro[2.5]octan-4-ol hydrochloride | 1.74 mmol, 284 mg | Cl.C1CC12[C@@H](CNCC2)O
reactant | triethylamine | 1.74 mmol, 176 mg | C(C)N(CC)CC | C6H15N
reactant | pyridine | 3.2 mmol, 0.34 mL | N1=CC=CC=C1 | C5H5N
reactant | AcOH | 6.66 mmol, 400 mg | CC(=O)O | C2H4O2
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | [3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-carbamic acid benzyl ester | 404 mg, 88% | C(C1=CC=CC=C1)OC(NCCCN1C[C@H](C2(CC2)CC1)O)=O | C18H26N2O3
